US04873344
To a stirred solution of 700 gr potassium tert-butoxide in 3.6 ltr N,N-dimethylformamide (DMF) is added gradually a solution of 401.4 gr 4-fluorobenzylcyanide and 429.2 gr 2-chlorobenzonitrile in 1.2 ltr DMF, maintaining an internal temperature between 25° C. and 30° C. (ice bath). The reaction mixture is subsequently stirred for one hour at ambient temperature and quenched with dilute hydrochloric acid. Extractive work-up with diethylether gives the product 2-cyano-4'-fluorobenzhydrylcyanide.

reactant | potassium tert-butoxide | 700 gr | CC(C)([O-])C.[K+]
reactant | 4-fluorobenzylcyanide | 401.4 gr | FC1=CC=C(CC#N)C=C1 | C8H6FN
reactant | 2-chlorobenzonitrile | 429.2 gr | ClC1=C(C#N)C=CC=C1 | C7H4ClN
solvent | DMF | CN(C=O)C | C3H7NO
product | 2-cyano-4'-fluorobenzhydrylcyanide | C(#N)C1=C(C(C2=CC=C(C=C2)F)C#N)C=CC=C1 | C15H9FN2
